US07244744B2
A solution of 1-piperidin-4-yl-1,3-dihydro-benzoimidazole-2-thione (0.2 g, 0.84 mmol) in methylene chloride (20 mL) was treated with pyridine (0.040 mL, 0.497 mmol) and 4-n-butylbenzoyl chloride (0.093 mL, 0.497 mmol). The reaction mixture was stirred for 18 h then purified directly by column chromatography on silica gel using ethyl acetate as the eluent to give (4-butyl-phenyl)-[4-(2-thioxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-methanone (0.167 g; 86%).

reactant | 1-piperidin-4-yl-1,3-dihydro-benzoimidazole-2-thione | 0.84 mmol, 0.2 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=S | C12H15N3S
reactant | pyridine | 0.497 mmol, 0.040 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-n-butylbenzoyl chloride | 0.497 mmol, 0.093 mL | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-butyl-phenyl)-[4-(2-thioxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-methanone | 0.167 g, 86% | C(CCC)C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=S | C23H27N3OS
